US07419984B2
Following the method described in Example 135 for the synthesis of 4-(5-bromo-2-propoxy-phenyl)-6-chloro-pyrimidin-2-ylamine, 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol and hexan-1-ol provided 4-(5-bromo-2-hexyloxy-phenyl)-6-chloro-pyrimidin-2-ylamine (47% yield).

reactant | 4-(5-bromo-2-propoxy-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCCC | C13H13BrClN3O
reactant | 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Br)O)Cl | C10H7BrClN3O
reactant | hexan-1-ol | C(CCCCC)O | C6H14O
product | 4-(5-bromo-2-hexyloxy-phenyl)-6-chloro-pyrimidin-2-ylamine | 47% yield | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCCCCCC | C16H19BrClN3O
